### PR TITLE
Constancy of maps

### PR DESCRIPTION
**Pull request by fredrik-bakke**
This PR formalizes the concept of constancy of a map of types.

### CODE REVIEW

File: src/foundation/coherently-constant-maps.lagda.md [hunk 1]
```diff
@@ -0,0 +1,326 @@
...
+```
+
+</details>
+
+## Idea
+
+A map `f : A → B` is said to be
+{{#concept "(coherently) constant" Disambiguation="map of types" WD="constant function" WDID=Q746264 Agda=is-constant-map Agda=constant-map}}
+if there is a [partial element](foundation.partial-elements.md) of `B`,
+`b : ║A║₋₁ → B` such that for every `x : A` we have `f x ＝ b`.
```
Comment (VojtechStep) [inline src/foundation/coherently-constant-maps.lagda.md:39]: Is it standard here to write `b (η x)` as `b`?

File: src/foundation/coherently-constant-maps.lagda.md [hunk 2]
```diff
@@ -0,0 +1,326 @@
...
+
+  refl-htpy-constant-map :
+    (f : constant-map A B) → htpy-constant-map f f
+  refl-htpy-constant-map f = refl-htpy
+
+  htpy-eq-constant-map :
+    (f g : constant-map A B) → f ＝ g → htpy-constant-map f g
+  htpy-eq-constant-map f .f refl = refl-htpy-constant-map f
+
+  is-torsorial-htpy-constant-map :
```
Comment (VojtechStep) [inline src/foundation/coherently-constant-maps.lagda.md]: Torsoriality proofs and `fundamental-theorem-id` applications are usually `abstract`

File: src/foundation/coherently-constant-maps.lagda.md [hunk 3]
```diff
@@ -0,0 +1,326 @@
...
+
+  refl-htpy-is-constant-map :
+    (H : is-constant-map f) → htpy-is-constant-map H H
+  refl-htpy-is-constant-map H = (refl-htpy , inv-htpy-right-unit-htpy)
+
+  htpy-eq-is-constant-map :
+    (H K : is-constant-map f) → H ＝ K → htpy-is-constant-map H K
+  htpy-eq-is-constant-map H .H refl = refl-htpy-is-constant-map H
+
+  is-torsorial-htpy-is-constant-map :
```
Comment (VojtechStep) [inline src/foundation/coherently-constant-maps.lagda.md]: `abstract`

File: src/foundation/coherently-constant-maps.lagda.md [hunk 4]
```diff
@@ -0,0 +1,326 @@
...
+    (H : is-constant-map f) → is-torsorial (htpy-is-constant-map H)
+  is-torsorial-htpy-is-constant-map H =
+    is-torsorial-Eq-structure
+      ( is-torsorial-htpy (center-partial-element-is-constant-map H))
+      ( center-partial-element-is-constant-map H , refl-htpy)
+      (is-torsorial-htpy' (contraction-is-constant-map' H ∙h refl-htpy))
```
Comment (VojtechStep) [inline src/foundation/coherently-constant-maps.lagda.md]:
```suggestion
      ( is-torsorial-htpy' (contraction-is-constant-map' H ∙h refl-htpy))
```

File: src/foundation/null-homotopic-maps.lagda.md [hunk 5]
```diff
@@ -51,23 +48,118 @@ or _constant_, if there is an element `y : B` such for every `x : A` we have
...
+
+  refl-Eq-null-homotopic-map :
+    (f : null-homotopic-map A B) → Eq-null-homotopic-map f f
+  refl-Eq-null-homotopic-map f = refl
+
+  Eq-eq-null-homotopic-map :
+    (f g : null-homotopic-map A B) → f ＝ g → Eq-null-homotopic-map f g
+  Eq-eq-null-homotopic-map f .f refl = refl-Eq-null-homotopic-map f
+
+  is-torsorial-Eq-null-homotopic-map :
```
Comment (VojtechStep) [inline src/foundation/null-homotopic-maps.lagda.md]: `abstract`

File: src/foundation/null-homotopic-maps.lagda.md [hunk 6]
```diff
@@ -89,54 +181,56 @@ module _
...
-    (H K : is-null-homotopic f) → H ＝ K → htpy-is-null-homotopic H K
-  htpy-eq-is-null-homotopic H .H refl = refl-htpy-is-null-homotopic H
+  htpy-eq-is-null-homotopic-map :
+    (H K : is-null-homotopic-map f) → H ＝ K → htpy-is-null-homotopic-map H K
+  htpy-eq-is-null-homotopic-map H .H refl = refl-htpy-is-null-homotopic-map H
 
-  is-torsorial-htpy-is-null-homotopic :
-    (H : is-null-homotopic f) → is-torsorial (htpy-is-null-homotopic H)
-  is-torsorial-htpy-is-null-homotopic H =
+  is-torsorial-htpy-is-null-homotopic-map :
```
Comment (VojtechStep) [inline src/foundation/null-homotopic-maps.lagda.md]: `abstract`

File: src/foundation/weakly-constant-maps.lagda.md [hunk 7]
```diff
@@ -26,25 +28,27 @@ open import foundation-core.torsorial-type-families
...
 
 A map `f : A → B` is said to be
-{{#concept "weakly constant" Disambiguation="map of types" Agda=is-weakly-constant}}
-if any two elements in `A` are mapped to
-[identical elements](foundation-core.identity-types.md) in `B`.
+{{#concept "weakly constant" Disambiguation="map of types" Agda=is-weakly-constant-map Agda=weakly-constant-map}},
+or **steady**, if any two elements in `A` are mapped to
+[identical elements](foundation-core.identity-types.md) in `B`. This concept is
+considered in {{#cite KECA17}} where it is in particular used to give a
+generalization of Hedberg's theorem.
```
Comment (VojtechStep) [inline src/foundation/weakly-constant-maps.lagda.md]: Link to Hedberg please

**Review by VojtechStep — COMMENTED** [review]
Perfect, this is pretty much ready to be merged right off the bat 👍

File: src/foundation/coherently-constant-maps.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation/coherently-constant-maps.lagda.md:39]: since every element of `║A║₋₁` is equal there cannot be any confusion

File: src/foundation/weakly-constant-maps.lagda.md (hunk 7 above)
Comment (fredrik-bakke) [reply src/foundation/weakly-constant-maps.lagda.md]: the theorem is formalized in `foundation.decidable-equality`, so I linked to that

File: src/foundation/coherently-constant-maps.lagda.md (hunk 1 above)
Comment (VojtechStep) [reply src/foundation/coherently-constant-maps.lagda.md:39]: Fair enough 😅
